US06479487B1
1-(4-Methoxybutyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-4-methoxybutane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-4-methoxybutane | ClCCCCOC | C5H11ClO
product | 1-(4-Methoxybutyl)-4-piperidone | COCCCCN1CCC(CC1)=O | C10H19NO2
